US06451842B1
A solution of 1-(4-chlorobenzyl)-4-{(glycylamino)methyl}piperidine dihydrochloride (738 mg, 2 mmol) in CH2Cl2 (20 mL) was treated with Et3N (1.1 mL, 8 mmol), 2-(tert-butoxycarbonylamino)-4,5-difluorobenzoic acid (607 mg, 2.2 mmol), EDCI (422 mg, 2.2 mmol) and HOBt (337 mg, 2.2 mmol). After the reaction mixture was stirred at room temperature for 14 h, 0.6 N aqueous NaOH solution (50 mL) was added, and the mixture was extracted with dichloromethane (3 times) The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated. Column chromatography (SiO2, ethyl acetate then ethyl acetate/methanol=92/8) afforded the desired 4-[{(N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl)amino}methyl]-1-(4-chlorobenzyl)piperidine (1.01 g, 92%): ESI/MS m/e 551.3 (M++H, C27H33ClF2N4O4).

reactant | 1-(4-chlorobenzyl)-4-{(glycylamino)methyl}piperidine dihydrochloride | 2 mmol, 738 mg | Cl.Cl.ClC1=CC=C(CN2CCC(CC2)CNC(CN)=O)C=C1
reactant | Et3N | 8 mmol, 1.1 mL | CCN(CC)CC | C6H15N
reactant | 2-(tert-butoxycarbonylamino)-4,5-difluorobenzoic acid | 2.2 mmol, 607 mg | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=C(C(=C1)F)F | C12H13F2NO4
reactant | EDCI | 2.2 mmol, 422 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 2.2 mmol, 337 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaOH | 0.6 N, 50 mL | [OH-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-[{(N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl)amino}methyl]-1-(4-chlorobenzyl)piperidine | 1.01 g, 92% | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC=C(C=C2)Cl)C=C(C(=C1)F)F | C27H33ClF2N4O4
